US06987194B2
Step A Synthesis of 1,3-Dichloro-2-(4-chlorobutoxy)-5-(phenylmethoxy)benzene as an Intermediate
A stirred solution of 7.5 grams (0.028 mole) of 2,6-dichloro-4-phenylmethoxyphenol (known compound) and 3 mL (0.030 mole) of 1-bromo-4-chlorobutane in 225 mL of DMF was cooled in an ice bath, and 5.8 grams (0.042 mole) of potassium carbonate was added. Upon completion of addition, the reaction mixture was allowed to warm to ambient temperature as it stirred for about 18 hours. The reaction mixture was then poured into 1000 mL of an aqueous solution saturated with sodium chloride. The mixture was extracted with four 150 mL portions of diethyl ether, and the combined extracts were washed with 50 mL of water. The organic layer was dried with sodium sulfate, filtered, and concentrated under reduced pressure to a residue. The residue was purified with column chromatography on silica gel using 1:3 methylene chloride:hexane as an eluant. The appropriate fractions were combined and concentrated under reduced pressure, yielding 6.7 grams of the subject compound. The NMR spectrum was consistent with the proposed structure.

reactant | 2,6-dichloro-4-phenylmethoxyphenol | 0.028 mole, 7.5 grams | ClC1=C(C(=CC(=C1)OCC1=CC=CC=C1)Cl)O | C13H10Cl2O2
reactant | 1-bromo-4-chlorobutane | 0.030 mole, 3 mL | BrCCCCCl | C4H8BrCl
reactant | potassium carbonate | 0.042 mole, 5.8 grams | C([O-])([O-])=O.[K+].[K+]
reactant | sodium chloride | [Cl-].[Na+]
solvent | DMF | 225 mL | CN(C)C=O | C3H7NO
product | 1,3-Dichloro-2-(4-chlorobutoxy)-5-(phenylmethoxy)benzene | 6.7 grams | ClC1=C(C(=CC(=C1)OCC1=CC=CC=C1)Cl)OCCCCCl | C17H17Cl3O2
